US06831088B2
Ethyl 2-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,3-oxazole-4-carboxylate
A suspension of copper (II) bromide (2.08 g, 9.31 mmol) and hexamethylenetetramine (1.30 g, 9.31 mmol) In degassed dichloromethane (25 ml) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (1.39 ml, 9.31 mmol) and then cooled in a cold water bath and stirred for 5 minutes. This suspension was then treated dropwise with a solution of ethyl (4S)-2-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-4,5-dihydro-1,3-oxazole-4-carboxylate (Preparation 31) (0.92 g, 2.33 mmol) in dichloromethane (5 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 17 hours. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and a solution of 0.88 ammonia: saturated aqueous solution of ammonium chloride (1:1, 100 mls). The layers were separated and the aqueous layer was extracted with ethyl acetate (x2). The organic layers were combined, washed sequentially with hydrochloric acid (2M), saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate: pentane (10:90) to afford the title compound as a pale yellow oil (0.59 g).

reactant | hexamethylenetetramine | 9.31 mmol, 1.30 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 9.31 mmol, 1.39 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl (4S)-2-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-4,5-dihydro-1,3-oxazole-4-carboxylate | 2.33 mmol, 0.92 g | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C=1OC[C@H](N1)C(=O)OCC)=O | C22H37NO5
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | copper (II) bromide | 9.31 mmol, 2.08 g | [Cu](Br)Br
product | Ethyl 2-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,3-oxazole-4-carboxylate | 0.59 g | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)C(=O)OCC)=O | C22H35NO5
